US03984228
Preparation of N-(β-Hydroxyethyl)-N-methyl-N'-(2-t-butyl-1,3,4-thiadiazol-5-yl)urea
2-t-Butyl-1,3,4-thiadiazol-5-yl isocyanate dimer (10 grams), N-methyl-N-β-hydroxyethylamine (4.4 grams) and ethyl acetate (50 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, reflux condenser and thermometer. The reaction mixture was heated at reflux with stirring for a period of about 2 hours. After this time the reaction mixture was stripped of solvent under reduced pressure to yield the desired product N-(β-hydroxyethyl)-N-methyl-N'-(2-t-butyl-1,3,4-thiadiazol-5-yl)urea as an oily residue.

reactant | 2-t-Butyl-1,3,4-thiadiazol-5-yl isocyanate | C(C)(C)(C)C=1SC(=NN1)N=C=O | C7H9N3OS
reactant | N-methyl-N-β-hydroxyethylamine | 4.4 grams | CNCCO | C3H9NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(β-hydroxyethyl)-N-methyl-N'-(2-t-butyl-1,3,4-thiadiazol-5-yl)urea | OCCN(C(=O)NC1=NN=C(S1)C(C)(C)C)C | C10H18N4O2S
